US06989401B2
(1) N-(tert-butoxycarbonyl)-L-phenylalanine benzyl ester
To a solution of N-(tert-butoxycarbonyl)-L-phenylalanine (30.0 g, 113 mmol) and benzyl alcohol (14.0 mL, 136 mmol) in methylene chloride (200 mL), were added successively 4-dimethylaminopyridine (1.38 g, 11.3 mmol) and WSCI.HCl (26.0 g, 136 mmol) under ice-cooling, and the mixture was stirred for 63 hr while gradually raising the temperature to room temperature. The solvent was distilled away from the reaction solution under reduced pressure, and water (200 mL) was added to the residue. The mixture was extracted with ethyl acetate (400 mL). The obtained extract solution was washed with 0.5N hydrochloric acid, water, saturated aqueous sodium hydrogencarbonate solution, water and saturated brine (each 200 mL), and dried (anhydrous magnesium sulfate) and concentrated under reduced pressure. The obtained residue was recrystallized from hexane to give the title compound (33.1 g, 82%) as white crystals.

reactant | N-(tert-butoxycarbonyl)-L-phenylalanine | 113 mmol, 30.0 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | benzyl alcohol | 136 mmol, 14.0 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | WSCI.HCl | 136 mmol, 26.0 g | CCN=C=NCCCN(C)C.Cl
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 11.3 mmol, 1.38 g | CN(C1=CC=NC=C1)C | C7H10N2
product | N-(tert-butoxycarbonyl)-L-phenylalanine benzyl ester | 33.1 g, 82% | C(C1=CC=CC=C1)OC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O | C21H25NO4
